US07560558B2
4-Methoxy-3-methylaniline (45.2 g) was dissolved in isopropanol (100 ml) to prepare a solution. Diethyl ethoxymethylenemalonate (71.3 g) was added to the solution, and the mixture was heated under reflux for 5 min. The reaction solution was cooled, and the solvent was then removed by distillation under the reduced pressure. The residue was washed with ether-hexane to give diethyl 2-[(4-methoxy-3-methyl-phenylamino)-methylene]-malonate (76.9 g, yield 76%).

reactant | 4-Methoxy-3-methylaniline | 45.2 g | COC1=C(C=C(N)C=C1)C | C8H11NO
reactant | Diethyl ethoxymethylenemalonate | 71.3 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | diethyl 2-[(4-methoxy-3-methyl-phenylamino)-methylene]-malonate | 76.9 g, yield 76% | COC1=C(C=C(C=C1)NC=C(C(=O)OCC)C(=O)OCC)C | C16H21NO5
